US04271167
The procedure of Example 24 is followed, but a suspension of 3-(pyrid-2-yl)-2-thioxo-perhydro-1,3-thiazin-4-one (22.4 g) in methanol (300 cc) and a solution of potassium borohydride (10.8 g) in distilled water (75 cc) are used as the starting materials at a maximum of 40° C. The reaction is allowed to proceed for 1 hour at between 25° and 40° C. The reaction mixture is evaporated to dryness and the residue (21.5 g) is dissolved in a mixture of ethyl acetate (70 cc) and cyclohexane (30 cc). The solution is chromatographed on silica (0.2-0.5 mm) (300 g) distributed in a column of diameter 4.5 cm. Elution is carried out with a mixture of ethyl acetate (520 cc) and cyclohexane (180 cc), this eluate being discarded, and then with a mixture of ethyl acetate (1,660 cc) and cyclohexane (540 cc). The eluate which is collected is evaporated to dryness under reduced pressure (20 mm Hg) at 45° C. 3-Hydroxypropyl pyrid-2-yldithiocarbamate (12.2 g), which melts at 93° C., is obtained.

reactant | 3-(pyrid-2-yl)-2-thioxo-perhydro-1,3-thiazin-4-one | 22.4 g | N1=C(C=CC=C1)N1C(SCCC1=O)=S | C9H8N2OS2
reactant | potassium borohydride | 10.8 g | [BH4-].[K+]
solvent | methanol | 300 cc | CO | CH4O
solvent | water | 75 cc | O | H2O
product | 3-Hydroxypropyl pyrid-2-yldithiocarbamate | 12.2 g | N1=C(C=CC=C1)NC(SCCCO)=S | C9H12N2OS2
